US04812164
using 2-ethoxy-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone with concentrated sulphuric acid at 0° C. during 1.5 minutes there is obtained 2-ethoxy-1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone, m.p. 117°-120° C.;

reactant | 2-ethoxy-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(C(F)(F)F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C17H15ClF6N2O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-ethoxy-1-(4-chloro-2-fluoro-5-hydroxyphenyl)-4-pentafluoroethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(C(F)(F)F)(F)F)=O)C1=C(C=C(C(=C1)O)Cl)F | C14H9ClF6N2O3
